US07629358B2
Preparation 32: [2-(3-bromophenyl)-1,1-dimethylethyl]carbamic acid tert-butyl ester
2-(3-bromophenyl)-1,1-dimethylethylamine (Preparation 31) (5.0 g, 22 mmol) was treated with di-tert-butyl dicarbonate (5.26 g, 24 mmol) in dichloromethane (50 ml) and stirred for 20 hours. The reaction mixture was washed with water (50 ml) and the combined organics dried (sodium sulfate) and the solvent removed in vacuo. The crude material was purified using a cation exchange column (methanol followed by 2M ammonia in methanol), followed by purification by flash column chromatography on silica gel eluting with dichloromethane to afford the title compound as a brown oil (7.23 g). 1H NMR (400 MHz, CDCl3) δ=7.35 (1H, d), 7.30 (1H, s), 7.15-7.11 (1H, t), 7.05 (1H, d), 4.24 (1H, bs), 2.97 (2H, s), 1.50 (9H, s), 1.27 (6H, s). LRMS (electrospray) m/z 350 [M+NH4]+

reactant | 2-(3-bromophenyl)-1,1-dimethylethylamine | 22 mmol, 5.0 g | BrC=1C=C(C=CC1)CC(C)(C)N | C10H14BrN
reactant | di-tert-butyl dicarbonate | 24 mmol, 5.26 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | [2-(3-bromophenyl)-1,1-dimethylethyl]carbamic acid tert-butyl ester | 7.23 g | C(C)(C)(C)OC(NC(CC1=CC(=CC=C1)Br)(C)C)=O | C15H22BrNO2
